US08034949B2
To a solution of 6-methylnicotinic acid (35 mg) in ethanol (1 mL) was added 2N sodium hydroxide solution (0.14 mL) and the mixture was stirred at 60° C. for 2 hours. After cooling to room temperature, to the reaction mixture was added 5N HCl (0.06 mL) and the mixture was evaporated in vacuo to give 6-methyloxynicotinic acid. The product was treated in the same manner as described in Example 3 to give (3R)-1-[bis-(4-chlorophenyl)methyl]-3-[(6-methoxynicotinoyl)amino]pyrrolidine (28.0 mg; yield: 61%) as a powder.

reactant | 6-methylnicotinic acid | 35 mg | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium hydroxide | 2N, 0.14 mL | [OH-].[Na+]
reactant | HCl | 5N, 0.06 mL | Cl | ClH
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | 6-methyloxynicotinic acid | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
